US07985764B2
A 500 mg portion of methyl 1-benzyl-3-formyl-1H-indole-5-carboxylate was dissolved in 17 ml of trifluoroacetic acid, and 2.70 ml of triethylsilane was added at 0° C., followed by stirring at room temperature for 3 hours. After evaporation of the solvent, ethyl acetate was added thereto, followed by washing with water, a saturated sodium bicarbonate aqueous solution and saturated brine and subsequent drying over anhydrous sodium sulfate. After evaporation of the solvent, the residue was purified by silica gel column chromatography (ethyl acetate:hexane=1:30 to 1:20) to obtain 433 mg of methyl 1-benzyl-3-methylindoline-5-carboxylate as a pale yellow liquid.

reactant | methyl 1-benzyl-3-formyl-1H-indole-5-carboxylate | C(C1=CC=CC=C1)N1C=C(C2=CC(=CC=C12)C(=O)OC)C=O | C18H15NO3
reactant | triethylsilane | 2.70 ml | C(C)[SiH](CC)CC | C6H16Si
solvent | trifluoroacetic acid | 17 ml | FC(C(=O)O)(F)F | C2HF3O2
product | methyl 1-benzyl-3-methylindoline-5-carboxylate | 433 mg | C(C1=CC=CC=C1)N1CC(C2=CC(=CC=C12)C(=O)OC)C | C18H19NO2
